US05246948
Synthesis of 4-[3-(nicotinoylamino)propylthio]pyridine
To a solution of 10.0 g (41.5 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 27.7 ml (200 mmol) of triethylamine in methylene chloride (100 ml), 8.86 g (49.8 mmol) of nicotinoyl chloride hydrochloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: methanol/ethyl acetate=1:10) to obtain powder. The powder was washed with ether and dried to obtain the desired compound (8.50 g, yield: 75.8%, pale yellow powder).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 41.5 mmol, 10.0 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 200 mmol, 27.7 ml | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 49.8 mmol, 8.86 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(nicotinoylamino)propylthio]pyridine | 8.50 g, yield: 75.8% | C(C1=CN=CC=C1)(=O)NCCCSC1=CC=NC=C1 | C14H15N3OS
